Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Codeine
 
Attending: ___
 
Chief Complaint:
"I just want to die I feel lost and exhausted if I walk outside
the door I'll jump in front of a truck"

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ yo AA female with hx of Depression with
Psychotic features, multiple psychiatric hospitalizations for
suicide attempts and the the most recent @ ___. The patient
also has a hx of heavy cocaine and alcohol abuse and possibly
PTSD.She comes to the ED today after she was dropped  off by a
friend b/o suicidal ideation s/p a suicide attempt by "eating a
whole bunch of cocaine and washing it down with vodka" last noc.
The patient reports a number of losses, her bestfriend died of
cancer and today was her funeral, her ___ yo neice died of an
aneurysm a month ago and her twin sons were recently diagnosed
with with life threatening illnesses. She said one was diagnosed
with 3 brain tunors and one with a heart condition.She said 
"that everyone who loves me dies" and believes she is the cause
of her bestfriend's death.
She said that she tried to kill herself by cutting her wrist 
last
noc. but her b.f. wouldn't let her. She said "I hate pain I
didn't feel anything when I cut it must have been the cocaine."
She said that she was suppposed to go to her g.f.'s funeral 
today
but instead came to the ED and then said " I should have died
first the reason I'm here is I promised her if i couldn't handle
what was going on to call my boss and bring me here."
The patient reports that she has been suicidal "all my life" and
more acutely over the past month.
She was last hospitlaized ___ Deac.4 in ___ but did not
f/u with her outpatient treaters and is not on any medicatons.

 
Past Medical History:
PSYCH HX:
* no current treaters she was to f/u with her PCP who was to 
  arrange for outpatient psychotherapy and psychopharm. @
  ___. Health Center but she did not f/u
* ___ ___ with depression, si, psychosis and 
  intoxication.
* hx of multiple psychiaric hospitlaizations and multiple 
suicide
  attempts

PAST MEDICAL HX:
* PCP ___ @ ___
* hx of heart murmur
* hx of anemia and thalassemia
* 6 children four with C sections 
* s/p tubal ligation
* T 98.9 BP 160/109 HR 98 R 18

As per OMR--> Six children four cesarean sections and a tubal 
ligation.  She
stated that she had a heart murmur and anemia.

 
Social History:
___
Family History:
Mo, sisters EtOH; sister depression
and hx SA; sister w mental retardation

 
Physical Exam:
VS: BP 148/89,  HR 65,  RR 16, temp 98.0, Sat 100%:   NAD. 

AS per PGY-1 Exam:
HEENT: normocephalic
CV: RRR
Chest: CTA b/l
Abd: soft, NT
EXT: no c/c/e

MSE: Appearance/behavior:  dressed in jeans and sweatshirt, 
groomed, not malodorous, appears stated age, poor dentition, 
cooperative with interview, wearing a hood, limited eye contact, 
PMA. Overall cooperative, pleasant and calm.
Speech: clear , regular rate, volume, and prosody, spontaneous.
Affect:  depressed, reactive,  inappropriate at times, smiling 
when talking about her boyfriend abusing her physically in the 
past. 
Mood: “better”
Thought Process: linear
Thought Content:  denies SI, and admits to fleeting passive ___, 
no AH.     No other paranoid ideation, no other preoccupations. 
Denies any IOR. 
Insight/Judgment: fair /poor
COGNITION:
Orientation: Alert and Oriented x 3
Gait: narrow gait, good balance. 
Neuro: no tremor, no other signs of withdrawal.
 
Pertinent Results:
___ 09:15AM   GLUCOSE-99 UREA N-14 CREAT-1.0 SODIUM-144 
POTASSIUM-3.9 CHLORIDE-109* TOTAL CO2-25 ANION GAP-14
___ 09:15AM   estGFR-Using this
___ 09:15AM   ALT(SGPT)-19 AST(SGOT)-25 ALK PHOS-48 TOT 
BILI-0.5
___ 09:15AM   TSH-1.5
___ 09:15AM   CALCIUM-9.4 PHOSPHATE-3.7 MAGNESIUM-2.1

___ 09:15AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:15AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 09:15AM   WBC-4.8 RBC-4.96 HGB-11.0* HCT-35.5* MCV-72* 
MCH-22.1* MCHC-31.0 RDW-14.8
___ 09:15AM   NEUTS-51.9 ___ MONOS-4.9 EOS-3.9 
BASOS-0.2
___ 09:15AM   PLT COUNT-343
___ 09:15AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:15AM URINE  BLOOD-SM NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 09:15AM URINE  ___ ___ YEAST-NONE 
___ 09:15AM URINE  MUCOUS-MANY
 
Brief Hospital Course:
Psychiatric:  ___ yo woman with h/o depression, possibility of 
psychotic sx, and  PSA who was admitted s/p SA following the 
death of her best friend ___. SA entailed drinking ETOH and 
smoking cocaine laced with "embalming fluid."  Endorses some 
passive SI in setting of multiple social stressors. She stated 
multiple times that she does not not want to be around the 
people she loves, secondary to the fact that "everyone I love 
dies."  She was also seen to perseverate  on the fact that she 
had no one she could trust.  Yet, after several discussions, she 
agreed that she had many, very meaningful supports in her life, 
such as her twin sons, her brother, and her close friend/boss. 
Throughout her stay, her mood improved and she became more able 
to discuss the abusive nature of the relationship with her 
boyfriend.   

Following a few days of groups and pharmacotherapy she denied 
any persistant thoughts of self harm.  She was pleasant 
throughout stay and very cooperative during daily interviews. 
She exhibited being future oriented,and was very happy about her 
opportunity to move into the home of her friend who recently 
passed, ___.  She endorses having hopes she will separate from 
her abusive boyfriend, but reports that she will most likey 
continue to see him when she wants to "have fun."   This was 
noted by the team as a possible indication that she is not 
dedicated to eliminating toxic influences in her life. She is 
supported emotionally by her boss.  She reported a very good and 
supportive relationship with her brother as well, and agreed 
that this relationship is not one she avoid.  Upon discharge, 
she was eager to leave and begin living in this new apartment.

Celexa was increased to 40mg po qd for depression and she was 
encouraged to participate in groups. Substance abuse treatment 
was offered to her, yet she declined, stating that she does not 
have a problem with subtsances. In addition, she refused a 
referral to the domestic violence prevention program, for fear 
that her boyfriend would become privy.   We counseled patient 
that it would absolutely in her best interest to accept the 
referal, but she continued to refuse. She did report that she 
would attend her follow up appts. 

At time of discharge, she denied any thoughts of self harm, was 
future oriented, looking forward to moving into her new 
apartment and returning to work. 

 
Medications on Admission:
no current medications
medications on discharge from ___ on ___ were
Citalopram 20mg qhs

 
Discharge Medications:
1. Ambien 10 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.
Disp:*14 Tablet(s)* Refills:*0*
2. Citalopram 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: major depression with psychotic symptoms.  
Post-traumatic stress disorder.  Polysubstance abuse.
Axis II: deferred
Axis III: heart mumur, anemia
Axis IV: none
Axis V: 60

 
Discharge Condition:
VS: BP 148/89,  HR 65,  RR 16, temp 98.0, Sat 100%:   NAD. 

MSE: Appearance/behavior:  dressed in jeans and sweatshirt, 
groomed, not malodorous, appears stated age, poor dentition, 
cooperative with interview, wearing a hood, limited eye contact, 
PMA. Overall cooperative, pleasant and calm.
Speech: clear , regular rate, volume, and prosody, spontaneous.
Affect:  depressed, reactive,  inappropriate at times, smiling 
when talking about her boyfriend abusing her physically in the 
past. 
Mood: “better”
Thought Process: linear
Thought Content:  denies SI, and admits to fleeting passive ___, 
no AH.     No other paranoid ideation, no other preoccupations. 
Denies any IOR. 
Insight/Judgment: fair /poor
COGNITION:
Orientation: Alert and Oriented x 3
Gait: narrow gait, good balance. 
Neuro: no tremor, no other signs of withdrawal.
Stable, improved.

 
Discharge Instructions:
-If you are having thoughts of wanting to hurt yourself or 
others, please call ___ or come to the Emergency Department 
immediately. 
-Please continue to take your medications as indicated. 
-Please follow up with your outpatient treaters as detailed 
below. 
 
Followup Instructions:
___